US07427612B2
Step 1: 4-(2-Cyano-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester
Title compound was prepared according to the procedure described in example G from N-Boc-piperazine and 2-Chloro-5-trifluoromethylbenzonitrile (CAS: 328-87-0)(15% yield, yellow oil, MS (m/e): 373.1 (M+NH4+, 100%).

reactant | N-Boc-piperazine | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
reactant | 2-Chloro-5-trifluoromethylbenzonitrile | ClC1=C(C#N)C=C(C=C1)C(F)(F)F | C8H3ClF3N
product | 4-(2-Cyano-4-trifluoromethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | 15% yield | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)C(F)(F)F)C#N | C17H20F3N3O2
